US05387603
To a solution of 5-[2-[N-tert-butoxycarbonyl-2-(2-ethoxyphenoxy)ethylamino]propyl]indoline-7-carbonitrile (300 mg) and cis-dicyclohexano-18-crown-6 (24 mg) in dry tetrahydrofuran (4 ml) were added potassium carbonate (107 mg) and ethyl bromoacetate (129 mg), and the mixture was reacted in a sealed tube at 100° C. for 24 hours. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by medium pressure liquid column chromatography on silica gel using a mixture of hexane and ethyl acetate (1/2) as eluent to give 124 mg of ethyl [5-[2-[N-tert-butoxycarbonyl-2-(2-ethoxyphenoxy)ethylamino]propyl]-7-cyanoindolin-1-yl]acetate as an oil.

reactant | 5-[2-[N-tert-butoxycarbonyl-2-(2-ethoxyphenoxy)ethylamino]propyl]indoline-7-carbonitrile | 300 mg | C(C)(C)(C)OC(=O)N(C(CC=1C=C2CCNC2=C(C1)C#N)C)CCOC1=C(C=CC=C1)OCC | C27H35N3O4
reactant | cis-dicyclohexano-18-crown-6 | 24 mg | C1CCC2C(C1)OCCOCCOC3CCCCC3OCCOCCO2 | C20H36O6
reactant | potassium carbonate | 107 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 129 mg | BrCC(=O)OCC | C4H7BrO2
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | ethyl [5-[2-[N-tert-butoxycarbonyl-2-(2-ethoxyphenoxy)ethylamino]propyl]-7-cyanoindolin-1-yl]acetate | 124 mg | C(C)(C)(C)OC(=O)N(C(CC=1C=C2CCN(C2=C(C1)C#N)CC(=O)OCC)C)CCOC1=C(C=CC=C1)OCC | C31H41N3O6
